************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: 6TDPMTSRAM
* View Name:     schematic
* Netlisted on:  May 28 18:34:36 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    6TDPMTSRAM
* View Name:    schematic
************************************************************************

.SUBCKT 6TDPMTSRAM Q Q' bit bit_n gnd sleep sleep_n vdd wl
*.PININFO sleep:I sleep_n:I wl:I Q:O Q':O bit:B bit_n:B gnd:B vdd:B
MM5 net044 Q' Q vdd PMOS_VTG W=247.5n L=50n m=1
MM4 Q' Q net044 vdd PMOS_VTG W=247.5n L=50n m=1
MM7 net044 sleep vdd vdd PMOS_VTG W=645.00n L=50n m=1
MM1 bit_n wl Q' gnd NMOS_VTG W=217.5n L=50n m=1
MM0 Q wl bit gnd NMOS_VTG W=217.5n L=50n m=1
MM3 net043 Q' Q gnd NMOS_VTG W=380.0n L=50n m=1
MM2 Q' Q net043 gnd NMOS_VTG W=380.0n L=50n m=1
MM6 net043 sleep_n gnd gnd NMOS_VTG W=430.0n L=50n m=1
.ENDS

