************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: 8x8PRECHARGE
* View Name:     schematic
* Netlisted on:  May 28 18:33:33 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    PRE_CHARGE
* View Name:    schematic
************************************************************************

.SUBCKT PRE_CHARGE BL BLbar clk vdd
*.PININFO clk:I BL:B BLbar:B vdd:B
MM2 BL clk BLbar vdd PMOS_VTG W=90n L=50n m=1
MM1 BLbar clk vdd vdd PMOS_VTG W=90n L=50n m=1
MM0 vdd clk BL vdd PMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8PRECHARGE
* View Name:    schematic
************************************************************************

.SUBCKT 8x8PRECHARGE BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk vdd
*.PININFO clk:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B 
*.PININFO BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B 
*.PININFO BLbar<5>:B BLbar<6>:B BLbar<7>:B vdd:B
XI15 BL<2> BLbar<2> clk vdd / PRE_CHARGE
XI9 BL<7> BLbar<7> clk vdd / PRE_CHARGE
XI16 BL<1> BLbar<1> clk vdd / PRE_CHARGE
XI14 BL<3> BLbar<3> clk vdd / PRE_CHARGE
XI13 BL<0> BLbar<0> clk vdd / PRE_CHARGE
XI12 BL<4> BLbar<4> clk vdd / PRE_CHARGE
XI10 BL<6> BLbar<6> clk vdd / PRE_CHARGE
XI11 BL<5> BLbar<5> clk vdd / PRE_CHARGE
.ENDS

