************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: 8x8SENSE_AMP
* View Name:     schematic
* Netlisted on:  May 28 18:38:41 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    SENSE_AMP
* View Name:    schematic
************************************************************************

.SUBCKT SENSE_AMP BL BLbar data_out gnd read_en vdd
*.PININFO read_en:I data_out:O BL:B BLbar:B gnd:B vdd:B
MM2 net12 read_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM1 net16 data_out net12 gnd NMOS_VTG W=90n L=50n m=1
MM0 net12 net16 data_out gnd NMOS_VTG W=90n L=50n m=1
MM6 BL read_en data_out vdd PMOS_VTG W=90n L=50n m=1
MM5 net16 read_en BLbar vdd PMOS_VTG W=90n L=50n m=1
MM4 net16 data_out vdd vdd PMOS_VTG W=90n L=50n m=1
MM3 vdd net16 data_out vdd PMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SENSE_AMP
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SENSE_AMP BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> data_out<0> 
+ data_out<1> data_out<2> data_out<3> data_out<4> data_out<5> data_out<6> 
+ data_out<7> gnd read_en vdd
*.PININFO read_en:I data_out<0>:O data_out<1>:O data_out<2>:O data_out<3>:O 
*.PININFO data_out<4>:O data_out<5>:O data_out<6>:O data_out<7>:O BL<0>:B 
*.PININFO BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B BL<7>:B BLbar<0>:B 
*.PININFO BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B BLbar<5>:B BLbar<6>:B 
*.PININFO BLbar<7>:B gnd:B vdd:B
XI10 BL<2> BLbar<2> data_out<2> gnd read_en vdd / SENSE_AMP
XI9 BL<1> BLbar<1> data_out<1> gnd read_en vdd / SENSE_AMP
XI13 BL<5> BLbar<5> data_out<5> gnd read_en vdd / SENSE_AMP
XI11 BL<3> BLbar<3> data_out<3> gnd read_en vdd / SENSE_AMP
XI12 BL<4> BLbar<4> data_out<4> gnd read_en vdd / SENSE_AMP
XI14 BL<6> BLbar<6> data_out<6> gnd read_en vdd / SENSE_AMP
XI15 BL<7> BLbar<7> data_out<7> gnd read_en vdd / SENSE_AMP
XI8 BL<0> BLbar<0> data_out<0> gnd read_en vdd / SENSE_AMP
.ENDS

